US04891445
EXAMPLE 1: SYNTHESIS OF TERT-OCTYL MERCAPTAN
200 ml of dry sulphonated Amberlyst 15 resin are placed in a tubular reactor with a capacity of approximately 420 ml (length: 135 cm; bore: 20 mm). Liquid diisobutylene at a rate of 112 g/h (that is 1 mole/h) and 136 g/h of gaseous H2S (that is 4 moles of H2S per 1 of diisobutylene) are introduced continuously at the head of the reactor at a pressure of 10 bars. The reactants are mixed intimately before their entry into the reactor, where the reaction mixture is maintained at the temperature of 45° C. The liquid flowing continuously from the reactor is collected and the remaining hydrogen sulphide is degassed. Analyses are carried out both on the crude liquid reaction products and on the gaseous effluents from the reaction, with the aim of establishing the complete balance of the reaction.

reactant | diisobutylene | CC(=C)CC(C)(C)C | C8H16
reactant | H2S | 4 moles | S | H2S
product | TERT-OCTYL MERCAPTAN | C(C)(C)(CC(C)(C)C)S | C8H18S
